US04621901
A solution of 2.4 g of 3-methoxy-2-(4-pentenyl)acrolein and 3.4 g of p-pentylbenzamidine hydrochloride in 30 ml of methanol was treated dropwise while stirring with a sodium methylate solution prepared from 0.55 g of sodium and 5 ml of methanol. The reaction mixture was stirred overnight at 50° C. and then neutralized (pH 5) with 3N hydrochloric acid. The solvent was distilled off and the residue was taken up in diethyl ether and water. The aqueous phase was back-extracted with diethyl ether. The organic phase was phase was washed with water, dried over sodium sulphate and concentrated. Chromatographic separation of the residue on silica gel with hexane/ethyl acetate gave 5-(4-pentenyl)-2-(p-pentylphenyl)pyrimidine as a colourless liquid; m.p. (C--I) 8.0° C., cl.p. (N--I) -4.5° C.

reactant | 3-methoxy-2-(4-pentenyl)acrolein | 2.4 g | COC=C(C=O)CCCC=C | C9H14O2
reactant | p-pentylbenzamidine hydrochloride | 3.4 g | Cl.C(CCCC)C1=CC=C(C(=N)N)C=C1
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 0.55 g | [Na] | Na
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 5-(4-pentenyl)-2-(p-pentylphenyl)pyrimidine | C(CCC=C)C=1C=NC(=NC1)C1=CC=C(C=C1)CCCCC | C20H26N2
